US05498630
A solution of ethyl 1-methyl-1H-pyrazole-4-carboxylate (20.2 g, 131 mmol) and NaOH (6.3 g, 158 mmol) in 200 mL absolute ethanol was refluxed for 2 h and stirring was continued at RT for 18 h. After that, the solvent was removed in vacuo. The residue was dissolved in water. The aq solution was washed with ether and acidified with concentrated HCl. The solid was filtered, washed with water and air-dried to give 14.2 g of 1-methyl-1H-pyrazole-4-carboxylic acid in 86% yield.

reactant | ethyl 1-methyl-1H-pyrazole-4-carboxylate | 131 mmol, 20.2 g | CN1N=CC(=C1)C(=O)OCC | C7H10N2O2
reactant | NaOH | 158 mmol, 6.3 g | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 1-methyl-1H-pyrazole-4-carboxylic acid | 14.2 g, 86% yield | CN1N=CC(=C1)C(=O)O | C5H6N2O2
